US04808723
Preparation of 2-amino-5-nitro-7-trifluoromethylbenzothiazole
13.5 g of 2-chloro-3,5-dinitrobenzotrifluoride is slowly introduced, with stirring, into a solution of 15.2 g of thiourea in 50 ml of sulpholane at 100° C. The mixture is stirred at 100° C. for a further 2.5 hours, cooled and the solid is filtered off with suction and the dry residue is thoroughly stirred with 50 ml of carbon disulphide. The solid is filtered off with suction and 7.5 g of material, which is homogeneous by chromatography and has a melting point of 303°-307° C. (decomposition), are obtained. After recrystallisation from pyridine/water (3/1), the melting point rises to 315°-316° C. (decomposition). me+ : 263

reactant | 2-chloro-3,5-dinitrobenzotrifluoride | 13.5 g | ClC1=C(C=C(C=C1[N+](=O)[O-])[N+](=O)[O-])C(F)(F)F | C7H2ClF3N2O4
reactant | thiourea | 15.2 g | NC(=S)N | CH4N2S
solvent | sulpholane | 50 ml | S1(=O)(=O)CCCC1 | C4H8O2S
product | 2-amino-5-nitro-7-trifluoromethylbenzothiazole | NC=1SC2=C(N1)C=C(C=C2C(F)(F)F)[N+](=O)[O-] | C8H4F3N3O2S
